US06569887B2
The dopamine uptake transporter binding assay was performed according to the methods described in Madras et al., 1989, Mol. Pharmacol. 36(4):518-524 and Javitch et al., 1984, Mol. Pharmacol. 26(1):35-44. The receptor source was guinea pig striatal membranes; the radioligand was [3H]WIN 35,428 (DuPont-NEN, Boston, Mass.) (60-87 Ci/mmol) at a final ligand concentration of 2.0 nM; the non-specific determinant 1 μM 1-[2-[bis(4-Fluorophenyl)methoxy]ethyl]-4-[3-phenylpropyl]piperazine dihydrochloride (“GBR 12909”), a high-affinity dopamine uptake inhibitor; reference compound was also GBR 12909. (−)-1-(3,4-Dichlorophenyl)-3-azabicyclo[3.1.0]hexane HCl was obtained according to the method of Example 5, above. Reactions were carried out in 50 mM TRIS-HCl (pH 7.4), containing 120 mM NaCl and at 0° C. to 4° C. for two hours. The reaction was terminated by rapid vacuum filtration onto glass fiber filters. Radioactivity trapped in the filters was determined and compared to control values in order to ascertain the interactions of the test compound with the dopamine uptake site. The data are reported in Table 1 below.

reactant | dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
reactant | [3H]WIN 35,428 | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)C3=CC=C(C=C3)F)C(=O)OC | C16H20FNO2
reactant | 1-[2-[bis(4-Fluorophenyl)methoxy]ethyl]-4-[3-phenylpropyl]piperazine dihydrochloride | 1 μM | Cl.Cl.FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CCCC1=CC=CC=C1)C1=CC=C(C=C1)F
reactant | GBR 12909 | C1CN(CCN1CCCC2=CC=CC=C2)CCOC(C3=CC=C(C=C3)F)C4=CC=C(C=C4)F | C28H32F2N2O
product | (−)-1-(3,4-Dichlorophenyl)-3-azabicyclo[3.1.0]hexane HCl | Cl.ClC=1C=C(C=CC1Cl)C12CNCC2C1 | InChI=1S/C11H11Cl2N.ClH/c12-9-2-1-7(3-10(9)13)11-4-8(11)5-14-6-11;/h1-3,8,14H,4-6H2;1H
